US07989628B2
N,N-Diethyl-4-{2-[(5-methyl-furan-2-ylmethyl)-amino]-quinolin-5-yl}-butyramide
Diethylamine (89 mg, 1.22 mmol) was dissolved in 5 mL dioxane. Trimethylaluminium (2M solution in heptane, 0.61 mL, 1.22 mmol) was added and the mixture was stirred for 1 hour at room temperature. 4-{2-[(5-Methyl-furan-2-ylmethyl)-amino]-quinolin-5-yl}-butyric acid methyl ester (137 mg, 0.4 mmol) 7 mL dioxane was added and stirring was continued at 90° C. for 5 hours. The reaction mixture was quenched by addition of 0.6 mL water. The solvent was evaporated off. The residue was purified by flash chromatography on silica gel (heptane/ethyl acetate 100:0->0:100 gradient). The title compound was obtained as a yellow oil (40 mg, 26%), MS: m/e=380.5 (M+H+).

reactant | Diethylamine | 1.22 mmol, 89 mg | C(C)NCC | C4H11N
reactant | Trimethylaluminium | 1.22 mmol, 2M, 0.61 mL | C[Al](C)C
reactant | 4-{2-[(5-Methyl-furan-2-ylmethyl)-amino]-quinolin-5-yl}-butyric acid methyl ester | 0.4 mmol, 7 mL, 137 mg | COC(CCCC1=C2C=CC(=NC2=CC=C1)NCC=1OC(=CC1)C)=O | C20H22N2O3
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N,N-Diethyl-4-{2-[(5-methyl-furan-2-ylmethyl)-amino]-quinolin-5-yl}-butyramide | C(C)N(C(CCCC1=C2C=CC(=NC2=CC=C1)NCC=1OC(=CC1)C)=O)CC | C23H29N3O2
